US07645771B2
To a stirred solution of 2-[(4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo-[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidin-1-yl)carbonyl]benzoic acid (69 mg, 0.12 mmol) in methylene chloride (4 mL) was added ammonia (1 mL, 0.5 M in dioxane), triethylamine (18 μL, 0.12 mmol) and HATU (46 mg, 0.12 mmol). The reaction mixture was stirred for 3 hours at ambient temperature before being diluted with methylene chloride and quenched with saturated sodium bicarbonate solution. The organic phase was dried over anhydrous sodium sulfate. After evaporation of the solvent, the crude product was purified by flash chromatography on silical gel, eluting with a gradient of 0-20% methanol in ethyl acetate to afford 2-[(4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidin-1-yl)carbonyl]benzamide (57 mg, 83%) 1H NMR (400 MHz, CDCl3) δ 7.81 (d, J=8.6 Hz, 1H), 7.56 (d, J=7.3 Hz, 1H), 7.46-7.42 (m, 2H), 7.38-7.34 (m, 2H), 7.30-7.21 (m, 4H), 7.18-7.08 (m, 3H), 6.91 (br, 1H), 5.74 (br, 1H), 4.63-4.54 (m, 1H), 4.26 (br, 1H), 3.47-3.08 (m, 5H), 2.54 (s, 3H), 2.40-2.30 (m, 3H), 2.11-2.06 (m, 1H), 1.97-1.80 (m, 10H), 1.59 (d, J=7.9 Hz, 2H). HRMS m/z (M+H)+ calcd: 576.3338, obsd: 576.3337.

reactant | 2-[(4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo-[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidin-1-yl)carbonyl]benzoic acid | 0.12 mmol, 69 mg | CC1=NC2=C(N1C1CC3CCC(C1)N3CCC3(CCN(CC3)C(=O)C3=C(C(=O)O)C=CC=C3)C3=CC=CC=C3)C=CC=C2 | C36H40N4O3
reactant | ammonia | 0.5 M, 1 mL | N | H3N
reactant | triethylamine | 0.12 mmol, 18 μL | C(C)N(CC)CC | C6H15N
reactant | HATU | 0.12 mmol, 46 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | 2-[(4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidin-1-yl)carbonyl]benzamide | 57 mg, 83% | CC1=NC2=C(N1C1CC3CCC(C1)N3CCC3(CCN(CC3)C(=O)C3=C(C(=O)N)C=CC=C3)C3=CC=CC=C3)C=CC=C2 | C36H41N5O2
